US09085605B2
Liquid-phase synthesis of Boc-D-Glu(OBzl)-NH2
48.6 g (1.0 eq) Boc-D-Glu(OBzl)-OH was dissolved in tetrahydrofuran, 24.8 g (1.5 eq) HOSu and 44.5 g (1.5 eq) DCC were added sequentially. After stirring for 5 hours in ice bath, the reaction was warmed to r.t and stirred for another 20 hours. A large number of white precipitate (DCU) precipitated, the precipitate was filtered out and washed with little tetrahydrofuran. The filtrate was stirred in ice-salt bath, and anhydrous ammonia was introduced to the solution. After 15 minutes, a large number of white precipitate precipitated, and stirred the mixture for another 1.5 hours, no more white solid precipitated out, and the reaction was completed. The precipitate was filtered and washed with tetrahydrofuran, and yellow oil was obtained after removing the tetrahydrofuran filtrate under vacuum. The yellow oil was diluted with AcOEt; and the pH of the solution was adjusted to 7 with 2N HCl aqueous solution in ice bath, and the solution was allowed to stand for 30 minutes. The AcOEt layer was separated, and successively washed with diluted hydrochloric acid, saturated sodium bicarbonate and water. After that, the AcOEt layer was dried with MgSO4 overnight. The mixture was filtered and the filtrate was evaporated to dryness under vacuum, and the residue was recrystallized with ethyl acetate-cyclo hexane to yield 34.2 g target compound with the yield of 75%, m.p.=122˜123° C., [α]=−1.8° (C=9.8 mg/mL, DMF)

reactant | Boc-D-Glu(OBzl)-OH | 48.6 g, 1.0 eq | N([C@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C17H23NO6
reactant | HOSu | 24.8 g, 1.5 eq | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 44.5 g, 1.5 eq | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Boc-D-Glu(OBzl)-NH2 | yield of 75% | N([C@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N)C(=O)OC(C)(C)C | C17H24N2O5
